US06153611
5-Methoxy-3-[4-[4-(phenylmethyl)-1-piperazinyl]-1-cyclohexen-1-yl]-1H-indole
A solution of 5-methoxyindole (3.68 mmole), 4-[4-(phenylmethyl)-1-piperazinyl]cyclohexanone (3.68 mmole), and pyrrolidine (0.25 ml) in ethanol (10 ml) was heated at reflux for 96 hr. The solution was concentrated in vacuo and the residue purified by chromatography on silica eluting with ethyl acetate in hexane to give the product which was converted to the fumarate salt in ethyl acetate (38.4%, mp: 199-200° C.). Calc'd for C26H31N3O.2C2H2O2 : C, 64.45%; H, 6.21%; N, 6.64%. Found: C, 64.42%; H, 6.21%; N, 6.61%.

reactant | 5-methoxyindole | 3.68 mmole | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | 4-[4-(phenylmethyl)-1-piperazinyl]cyclohexanone | 3.68 mmole | C1(=CC=CC=C1)CN1CCN(CC1)C1CCC(CC1)=O | C17H24N2O
reactant | pyrrolidine | 0.25 ml | N1CCCC1 | C4H9N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-3-[4-[4-(phenylmethyl)-1-piperazinyl]-1-cyclohexen-1-yl]-1H-indole | COC=1C=C2C(=CNC2=CC1)C1=CCC(CC1)N1CCN(CC1)CC1=CC=CC=C1 | C26H31N3O
